US06399606B1
Ethyl 4-Oxo-4-(3-Pyridyl)butanoate
The title compound was prepared from 3-pyridinecarboxaldehyde (20 g) and ethyl acrylate (22.4 g) as described in Example 1 to yield 5.1 g, ESMS (M+1)+208.

reactant | 3-pyridinecarboxaldehyde | 20 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | ethyl acrylate | 22.4 g | C(C=C)(=O)OCC | C5H8O2
product | Ethyl 4-Oxo-4-(3-Pyridyl)butanoate | O=C(CCC(=O)OCC)C=1C=NC=CC1 | C11H13NO3
